US08633173B2
7-{8-[2-(2,2-Difluoro-ethoxy)-4-methanesulfonyl-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester was prepared from 2-chloro-8-[2-(2,2-difluoro-ethoxy)-4-methanesulfonyl-phenyl]-[1,2,4]-triazolo[1,5-a]pyridine (0.371 g, 1.20 mmol) and 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester (0.253 g, 652 mmol) in a manner analogous to Example 311a and 311b to give product (0.285 g, 71%): 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.58 (s, 1H), 8.82 (d, 1H), 7.94 (d, 1H), 7.74 (s, 1H), 7.68 (m, 2H), 7.48 (d, 1H), 7.37 (s, 1H), 7.05 (m, 2H), 6.27 (br m, 1H), 4.52 (m, 2H), 3.45 (m, 4H), 2.77 (m, 4H), 2.50 (s, 3H), 1.41 (s, 9H). MS=614 (MH)+.

reactant | 2-chloro-8-[2-(2,2-difluoro-ethoxy)-4-methanesulfonyl-phenyl]-[1,2,4]-triazolo[1,5-a]pyridine | 1.20 mmol, 0.371 g | ClC1=NN2C(C(=CC=C2)C2=C(C=C(C=C2)S(=O)(=O)C)OCC(F)F)=N1 | C15H12ClF2N3O3S
reactant | 7-amino-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | 652 mmol, 0.253 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)N | C15H22N2O2
product | 7-{8-[2-(2,2-Difluoro-ethoxy)-4-methanesulfonyl-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino}-1,2,4,5-tetrahydro-3-benzazepine-3-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)NC2=NN1C(C(=CC=C1)C1=C(C=C(C=C1)S(=O)(=O)C)OCC(F)F)=N2 | C30H33F2N5O5S
